US06660744B1
A mixture of 5-bromo-2-phenoxypyridine (1.40 g, 0.0056 mol), diboron pinacol ester (Intermediate AF) (1.71 g, 0.0067 mol), [1.1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.137 g, 0.00017 mol) and potassium acetate (1.65 g, 0.0168 mol) in N,N-dimethylformamide (50 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (40 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:9) as mobile phase to give 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine as a white solid (purity 93% (HPLC), 1.20 g, 0.004 mol): 1H NMR (DMSO-d6, 400 MHz) 8.36 (s, 1H), 8.03 (d, 1H), 7.45 (t, 2H), 7.25 (t, 1H), 7.16 (d, 2H), 7.01 (d, 1H), 1.30 (s, 12H); MS: MH+298.

reactant | 5-bromo-2-phenoxypyridine | 0.0056 mol, 1.40 g | BrC=1C=CC(=NC1)OC1=CC=CC=C1 | C11H8BrNO
reactant | diboron pinacol ester | 0.0067 mol, 1.71 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00017 mol, 0.137 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0168 mol, 1.65 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine | O(C1=CC=CC=C1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BNO3
